spice
* NMOS transistor definition
M1 2 1 3 3 NMOS

* Current source definition
Ix 1 2 DC 0

* Capacitor C1 definition
C1 2 4 1u

* Capacitor C2 definition
C2 3 5 1u

* Voltage source
V1 1 0 DC +2V

* Model for NMOS
.model NMOS NMOS (LEVEL=1)

* End of file